US08466114B2
To a solution of 2-bromoisopropyl benzene (2.0 g, 10.0 mmole) in dry THF (20 mL), nBuLi (1.6 M in hexane), (6.9 mL, 11.05 mmole) was added at −78° C. and the mixture was stirred at same temperature for one hour. DMF (0.9 g, 12.0 mmole) was added and the mixture was stirred at −78° C. for half an hour then allowed to stir at 0° C. for 15 min. The reaction mixture was diluted with saturated aqueous ammonium chloride (10 mL) and extracted with EtOAc (3×30 mL). The organic layers were combined and washed with brine, dried over sodium sulfate, and concentrated to yield 2-isopropyl benzaldehyde (1.4 g).

reactant | 2-bromoisopropyl benzene | 10.0 mmole, 2.0 g | BrC1=C(C=CC=C1)C(C)C | C9H11Br
reactant | nBuLi | 11.05 mmole, 1.6 M, 6.9 mL | [Li]CCCC
reactant | DMF | 12.0 mmole, 0.9 g | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | 10 mL | [Cl-].[NH4+]
product | 2-isopropyl benzaldehyde | 1.4 g | C(C)(C)C1=C(C=O)C=CC=C1 | C10H12O
